US06107291
To a solution of Acetic acid 2-hydroxycarbamoyl-1-(4-methoxy-benzenesulfonyl)-azepan-3-ylmethyl ester in 1.1 mL methanol was added 0.1 mL of 1.0 M LiOH in water at ambient temperature. The reaction was stopped after 30 minutes by evaporating the solvent under reduced pressure. The residue was taken up in water and washed twice with diethyl ether, followed by acidification of the water to pH=1 with 1N HCl. The water layer was extracted twice with ethyl acetate which was dried over anhydrous magnesium sulfate and filtered. The solvent was evaporated under reduced pressure and was purified with column chromatography (silica: 2% to 8% methanol in dichloromethane) to yeild a thin film which was freeze-dried to yield 3-Hydroxymethyl-1-(4-methoxy-benzenesulfonyl)-azepane-2-carboxylic acid hydroxamide as a white lyopholate; MS: (M-H)- =357.

reactant | Acetic acid 2-hydroxycarbamoyl-1-(4-methoxy-benzenesulfonyl)-azepan-3-ylmethyl ester | ONC(=O)C1N(CCCCC1COC(C)=O)S(=O)(=O)C1=CC=C(C=C1)OC | C17H24N2O7S
reactant | LiOH | 1.0 M, 0.1 mL | [Li+].[OH-]
solvent | methanol | 1.1 mL | CO | CH4O
solvent | water | O | H2O
product | 3-Hydroxymethyl-1-(4-methoxy-benzenesulfonyl)-azepane-2-carboxylic acid | OCC1C(N(CCCC1)S(=O)(=O)C1=CC=C(C=C1)OC)C(=O)O | C15H21NO6S
